US06664271B1
The reaction was run in the same manner as ethyl 1-benzoyl-3-piperidinecarboxylate, starting with 1-benzoyl-3-piperidinecarbonyl chloride (216.2 mg; 0.86 mmol), diisopropylethylamine (350 μl; 2.0 mmol) and commercially available ethylamine hydrochloride (74.6 mg; 0.86 mmol). The crude product was purified by chromatography on silica, eluting with 100% ethyl acetate, giving N-ethyl 1-benzoyl-3-piperidinecarboxamide (144.3 mg) as a white, sticky, semi-solid. MS m/z (positive ion) 362 (25), 261 (MH+; 100).

reactant | ethyl 1-benzoyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)OCC | C15H19NO3
reactant | 1-benzoyl-3-piperidinecarbonyl chloride | 0.86 mmol, 216.2 mg | C(C1=CC=CC=C1)(=O)N1CC(CCC1)C(=O)Cl | C13H14ClNO2
reactant | diisopropylethylamine | 2.0 mmol, 350 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethylamine hydrochloride | 0.86 mmol, 74.6 mg | Cl.C(C)N
product | N-ethyl 1-benzoyl-3-piperidinecarboxamide | 144.3 mg | C(C)NC(=O)C1CN(CCC1)C(C1=CC=CC=C1)=O | C15H20N2O2
